US09315475B2
Step 8: Preparation of tert-butyl (2R,5S)-2-[2-(2-aminophenyl)ethyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate
To tert-butyl (2R,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-[(E)-2-(2-nitrophenyl)ethenyl]morpholine-4-carboxylate (1 eq.) in 2,2,2,-trifluoroethanol (0.4 M) at rt was added 20% Pd(OH)2 (0.2 eq.). The reaction was degassed and then shaken under 1 atm of H2 for 24 hrs. The reaction mixture was filtered on celite and concentrated to afford the desired compound.

reactant | tert-butyl (2R,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-[(E)-2-(2-nitrophenyl)ethenyl]morpholine-4-carboxylate | 1 eq. | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)\C=C\C1=C(C=CC=C1)[N+](=O)[O-] | C24H38N2O6Si
solvent | 2,2,2,-trifluoroethanol | 0.4 M | FC(CO)(F)F | C2H3F3O
catalyst | Pd(OH)2 | 0.2 eq. | [OH-].[OH-].[Pd+2]
product | tert-butyl (2R,5S)-2-[2-(2-aminophenyl)ethyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate | NC1=C(C=CC=C1)CC[C@@H]1CN([C@@H](CO1)CO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C24H42N2O4Si
